US09034866B2
10-bromo-3-iodo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carb oxamide was reacted with 2-methyl-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]propan-2-ol similarly to as described in Example 4 to produce crude 10-bromo-3-(1-(2-hydroxy-2-methylpropyl)-1H-pyrazol-4-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide.

reactant | 10-bromo-3-iodo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carb oxamide | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)I)C1 | C14H11BrIN3O
reactant | 2-methyl-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]propan-2-ol | CC(CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)(C)O | C13H23BN2O3
product | 10-bromo-3-(1-(2-hydroxy-2-methylpropyl)-1H-pyrazol-4-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C=3C=NN(C3)CC(C)(C)O)C1 | C21H22BrN5O2
